US07332516B2
To a solution of 2-(4-isobutyl-phenyl)-propionic acid (5.00 g, 24.2 mmol) in anhydrous MeOH (150 mL) was added conc H2SO4 (catalytic) and heated to reflux for 5 hrs. After cooling, the solution was evaporated to dryness, the residue dissolved in methylene chloride, dried (MgSO4), filtered and evaporated to yield methyl 2-(4isobutyl-phenyl)-propionate as a colorless oil. 1H NMR (500 MHz, CDCl3) δ 7.19 (2H, d, J=8,1 Hz), 7.09 (2H, d, J=8.1 Hz), 3.71 (1H, q, J=7.2 Hz), 3.66 (3H, s), 2.44 (2H, d, J=7.2 Hz), 1.84 (1H, app. septet, J=6.7 Hz), 1.48 (3H, d, J=7.2 Hz), 0.90 (6H, d, J=6.6 Hz).

reactant | 2-(4-isobutyl-phenyl)-propionic acid | 24.2 mmol, 5.00 g | C(C(C)C)C1=CC=C(C=C1)C(C(=O)O)C | C13H18O2
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | MeOH | 150 mL | CO | CH4O
product | methyl 2-(4isobutyl-phenyl)-propionate | C(C(C)C)C1=CC=C(C=C1)C(C(=O)OC)C | C14H20O2
